Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Confusion, anemia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ man with history of anemia due to T 
cell lymphoproliferative disorder on prednisone presenting with 
confusion, found to have acute on chronic anemia.

Regarding the patient's anemia, per review of his outpatient PCP 
notes he was noted to have progressively worsening anemia in 
___ when he presented for care. He has had iron and B12 studies 
that were normal. He has a modestly elevated erythropoietin 
level. He had a myelodysplastic panel done that revealed
none of the most common chromosomal abnormalities. A bone marrow 
biopsy in ___ was hyperplastic, with ___ of the cells 
staining for CD138 so he may have a low-grade plasma cell 
dyscrasia. He had an EGD in ___ that showed a pyloric stricture 
but no evidence if bleeding. He has had progressive worsening of 
his
anemia. He received 2 units PRBCS on ___ as an outpatient. Per 
his PCP notes, his prednisone was increased from 10 to 15 mg 
daily in ___.

The patient denies any melena, hematochezia, hemoptysis, 
hematemesis. He denies any fevers, chills, weight loss. He 
denies any lightheadedness, dizziness, chest pain, palpitations, 
dyspnea.

Regarding his mental status, per review of his outpatient PCP 
notes it appears that confusion and memory difficulties have 
been an ongoing issue since ___. Per Dr. ___, the 
patient was hospitalized at ___ from ___ -> 
___ for mental status changes. He was seen here on ___ 
and methotrexate was prescribed for the clonal T cell disorder 
that was causing marrow suppression. He took the methotrexate 
the following day. Two days later, he had a 'flu-like' syndrome. 
He was brought to the ___. The night after 
admission, he eloped and walked to the police station and was 
brought back to the hospital.

During the hospitalization, he had no signs of any cardiac 
dysrrhythmias on telemetry. A head MRI/MRA revealed no 
abnormalities; he had a TTE that revealed no thrombus, but he 
was found to have a large patent foramen ovale. Metabolic 
studies, TSH, B12, RPR, UA and chest X ray were all normal. His 
mental status returned toward normal after 3 days in the 
hospital.

Today, his daughter accompanies him at the bedside. She reports 
that over the past few days he has been slightly confused in the 
morning, believing himself to be in ___ (he spends his 
winters there). This confusion was transient and he was able to 
be re-oriented. However, on the day of admission, he was
persistent in his belief that he was in ___, so they 
presented to Urgent Care of evaluation. No recent trauma or 
falls. 

Per the ED, at urgent care, he was noted to have hemoglobin 5.1, 
hematocrit 15. He had a head CT that per ED report was 
unremarkable.

In the ED, initial vitals: 98 66 154/64 20 99% RA 
Labs notable for: WBC 3.4, Hb 6.1, INR 1.1; iron studies 
pending; LFTs wnl; Na 129, BUN/Cr 39/1.4; trop <0.01
Imaging notable: NCHCT

On arrival to the floor, the patient reports that he feels well 
and has no complaints.

ROS: Pertinent positives and negatives as noted in the HPI. All 
other systems were reviewed and are negative.
 
Past Medical History:
- Anemia due to T cell lymphoproliferative disorder
- DMII
- HLD
- CKD
- Hypothyroidism
- GERD
 
Social History:
___
Family History:
No known family history of hematologic disorder.
 
Physical Exam:
Admission Exam: 
VITALS: 97.6 114/61 58 18 100 Ra 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round, conjunctival pallor
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel
sounds present. 
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented x1 only to self, PERRLL, face symmetric,
gaze conjugate with EOMI, speech fluent, strength intact in 
upper
and lower extremities, moves all limbs, sensation to light touch
grossly intact throughout
PSYCH: Pleasant, appropriate affect

Discharge Exam: 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round, conjunctival pallor
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, No JVD.
RESP: Lungs clear to auscultation with good air movement 
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel 
sounds present. 
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented x1 only to self, PERRLL, face symmetric, 
gaze conjugate with EOMI, speech fluent, strength intact in 
upper and lower extremities, moves all limbs, sensation to light 
touch grossly intact throughout. disoriented, confused and 
somewhat perseverative about going home. restless somewhat
PSYCH: Pleasant, appropriate affect
 
Pertinent Results:
Labs:
___ 07:15PM BLOOD WBC: 3.4* RBC: 1.80* Hgb: 6.1* Hct: 18.5*
MCV: 103* MCH: 33.9* MCHC: 33.0 RDW: 22.0* RDWSD: 82.8* Plt Ct:
321 
___ 07:15PM BLOOD Neuts: 54.6 Lymphs: ___ Monos: 5.6 Eos:
2.1 Baso: 0.3 Im ___: 1.5* AbsNeut: 1.84 AbsLymp: 1.21 AbsMono:
0.19* AbsEos: 0.07 AbsBaso: 0.01 
___ 07:15PM BLOOD ___: 12.3 PTT: 27.8 ___: 1.1 
___ 07:15PM BLOOD Glucose: 207* UreaN: 39* Creat: 1.4* Na:
129* K: 5.1 Cl: 96 HCO3: 20* AnGap: 13 
___ 07:15PM BLOOD ALT: 24 AST: 15 LD(LDH): 198 AlkPhos: 
149*
TotBili: 0.6 
___ 07:15PM BLOOD cTropnT: <0.01 
___ 07:15PM BLOOD Albumin: 3.4* Calcium: 8.9 Phos: 3.9 Mg:
1.9 Iron: Pending 

Micro:
- Urine culture (___): Pending

Imaging:

- EGD (___):
Small hiatal hernia
Stricture of the pylorus channel on the duodenal side
Abnormal mucosa in the proximal bulb
Otherwise normal EGD to third part of the duodenum

- NCHCT (___): From Urgent Care. No accompanying report. Per
ED notes this was unremarkable. Per my review of the head CT,
there is no gross abnormality.

___ 07:30AM BLOOD WBC-5.6 RBC-2.12* Hgb-7.2* Hct-21.2* 
MCV-100* MCH-34.0* MCHC-34.0 RDW-21.4* RDWSD-78.0* Plt ___
___ 07:30AM BLOOD ___ PTT-26.1 ___
___ 07:30AM BLOOD Ret Aut-3.9* Abs Ret-0.08
___ 07:30AM BLOOD Glucose-63* UreaN-37* Creat-1.3* Na-133* 
K-4.4 Cl-100 HCO3-21* AnGap-12
___ 07:30AM BLOOD ALT-25 AST-21 LD(LDH)-234 AlkPhos-145* 
TotBili-1.9*
___ 07:30AM BLOOD TotProt-6.2* Albumin-3.5 Globuln-2.7 
Calcium-9.1 Phos-3.5 Mg-2.1
___ 07:15PM BLOOD calTIBC-191* Hapto-29* Ferritn-545* 
TRF-147*
___ 07:30AM BLOOD TSH-17*
 
Brief Hospital Course:
SUMMARY/ASSESSMENT: Mr. ___ is a ___ man with 
history of anemia due to T cell lymphoproliferative disorder on 
prednisone presenting with confusion, found to have acute on 
chronic anemia.

ACUTE/ACTIVE PROBLEMS:
# Acute on chronic anemia due to T cell lymphoproliferative 
disorder: Suspect that this worsening of underlying 
lymphoproliferative process. No evidence of active bleeding or 
hemolysis. The patient has recently increased his prednisone 
from 10 to 15 mg. He was previously on methotrexate but this was 
discontinued due to marrow suppression. He was transfused with 
1U PRBC with improvement in hig hemoglobin from 6.1 to 7.2. Iron 
studies showed anemia of chronic disease, folate and B12 normal. 
tbili was elevated, retic count low. Heme was consulted and 
recommended SPEP/UPEP, serum free light chains and peripheral 
smear. After discussion with family, they felt strongly about 
discharge to home today and pursuing any further workup in the 
outpatient setting as his delirium was worsening in the setting 
of unfamiliar surroundings. After risks and benefits discussion 
agreed that reasonable to discharge patient with close 
outpatient follow up given the hospital environment and break up 
of his routine was doing more harm than good. He was continued 
on prednisone 15 mg daily and home ___ was arranged for him on 
discharge. He is advised to call Dr. ___ I emailed as 
well) to arrange for closer follow-up to discuss further workup 
and management given concern for progression of lymphoma. 

# Encephalopathy: appears to have had some cognitive decline 
with memory deficits over the past year but per family has had 
worsening confusion and impulsivity these past 3 days which is 
different from his baseline and is similar in quality to his 
acute confusional state about a year ago which was attributed to 
the methotrexate at the time. I suspect he has at least mild 
cognitive impairment at baseline (currently in the process of 
being referred to neurology for neurocognitive testing in the 
outpatient setting) and now is presenting with superimposed 
delirium in the setting of acute on chronic anemia, increasing 
steroid doses, labile blood sugars, hyponatremia and dehydration 
on arrival both of which have improved. UA negative and no 
evidence of infectious process by vitals, exam or history. After 
extensive discussion with both daughters, decision made to 
discharge patient to home where he will be in more familiar 
surroundings and will be able to resume his usual routine. As 
above, he will have ___ visits and will need close PCP follow up 
to ensure improvement in mental status over the next few days. 
Would note that his TSH was elevated but otherwise normal B12, 
negative cultures so far, no signs of infection. I have added on 
peripheral thyroid hormone levels but will defer to PCP any 
changes to his thyroid replacement regimen which was continued 
on discharge at previous home dose.  

# DMII: Glycemic control has been worse with increase in 
prednisone and acute confusional state with elevated sugars in 
the evening and low sugars in the morning. ___ team was 
consulted and have recommended continuing his glargine at 
current dose of 13 qam, increasing NPH to 28 qam and decreasing 
his 70/30 to 16 qhs. He will need close outpatient follow up in 
___ and family was advised to call ___ first 
thing tomorrow (today's a holiday schedule) to arrange for an 
appointment sooner than is currently scheduled. 

# Hypothyroidism: Continued levothyroxine at previous home dose 
but as above, TSH elevated at 17, peripheral thyroid hormone 
levels pending at time of discharge. Will defer to PCP any 
changes to his thyroid replacement regimen. 

# HLD: Continued statin
# CKD: Cr 1.4, stable near baseline 1.3. Continue to monitor.
# GERD: Continued omeprazole

The total time spent today on discharge planning, counseling and 
coordination of care today was greater than 30 minutes.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 15 mg PO DAILY 
2. Atorvastatin 20 mg PO QPM 
3. 70/30 20 Units Dinner
Glargine 13 Units Breakfast
Humulin NPH 25 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin
4. Multivitamins 1 TAB PO DAILY 
5. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
6. Omeprazole 40 mg PO DAILY:PRN Indigestion 
7. Aspirin 81 mg PO DAILY 
8. Levothyroxine Sodium 25 mcg PO DAILY 
9. Tradjenta (linaGLIPtin) 5 mg oral DAILY 
10. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
11. Ranitidine Dose is Unknown  PO Frequency is Unknown 

 
Discharge Medications:
1.  70/30 16 Units Dinner
Glargine 13 Units Breakfast
Humulin NPH 28 Units Breakfast 
2.  Ranitidine 150 mg PO BID:PRN heartburn  
3.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 20 mg PO QPM  
6.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
7.  Levothyroxine Sodium 25 mcg PO DAILY  
8.  Multivitamins 1 TAB PO DAILY  
9.  Omeprazole 40 mg PO DAILY:PRN Indigestion  
10.  PredniSONE 15 mg PO DAILY  
11.  Tradjenta (linaGLIPtin) 5 mg oral DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Acute on Chronic Anemia
Cutaneous T cell Lymphoma
Toxic Metabolic Encephalopathy
Dehydration
Acute Kidney Injury
Hypovolemic Hyponatremia
Type 2 Diabetes with steroid-induced hyperglycemia and labile 
sugars

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,
 
 It was a pleasure taking part in your care here at ___! 

 Why was I admitted to the hospital? 
 - You were admitted to the hospital for increased confusion and 
were found to have worsening anemia as well as dehydration.

 What was done for me while I was in the hospital? 
 - We gave you a blood transfusion and you responded to this 
appropriately but it will be important to follow up with Dr. 
___ to discuss further treatment options or any further 
testing required given worsening of your anemia in the setting 
of your underlying lymphoma. 
 - We also made adjustments to your insulin given your high 
sugars in the evening and low sugars in the morning. We suspect 
this is being driven by the higher dose of prednisone that 
you're currently on and will require continued active titration 
especially if your dose of prednisone changes after discharge.  

 What should I do when I leave the hospital? 
 - Please call Dr. ___ first thing tomorrow to 
arrange for closer follow up than currently planned. 
 - Please make sure you call the Diabetes team ___) 
first thing tomorrow to arrange for closer follow up than 
currently scheduled.

Sincerely, 
Your ___ Care Team 
It was a pleasure to participate in your care.
 
Followup Instructions:
___